US09359622B2
Biotechnological Production of Phloretin (See Step (ii))
To induce (over)expression initially an IPTG concentration of 1 mM in the medium is set and then 7 ml of a naringenin solution (100 mM in DMSO) added.

reactant | IPTG | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | naringenin | 100 mM, 7 ml | C1=CC(=CC=C1[C@@H]2CC(=O)C=3C(=CC(=CC3O2)O)O)O | C15H12O5
product | Phloretin | OC1=CC=C(CCC(=O)C=2C(O)=CC(O)=CC2O)C=C1 | C15H14O5
